Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
EGD ___ 

 
History of Present Illness:
The patient is a ___ year old male with a history of EtOH use,
peptic ulcer disease ___ h pylori s/p tx (___), upper GI bleed,
who presents with 48 hours intermittent hematemesis and melena. 

The patient was in his usual state of health until ___
evening when he had acute onset of vomiting and diarrhea. At 
that
time did not notice blood as it was dark. Patient unable to
quantify amount. The following day he had an episode of frank
hematemesis and multiple episodes of ___ stool. He
endorses lightheadedness, but no chest pain or palpitations.
Denies any abdominal pain. No chest pain or shortness of breath.
No nonsteroidal antiinflammatory drugs, but does use an OTC
curcumin supplement x1 month. No aspirin use.

Patient notes having a recent alcohol binge ___ vodka x 3 
days)
after hearing the death of one of his close friends. He also
drank 200 mL vodka before presenting to the ED. He notes that he
has had increasing difficulty with alcohol over the past ___
years. He will binge for ___ and then achieve abstinence
for ___ before relapsing. Most recently drank heavily
during a trip to ___ to visit his family. States that he
does get withdrawal sx occasionally, denies hallucinations,
seizure history. 

Initially tachycardic in the ED, which improved with 1L IVNS.
Rectal exam performed and was notable for "melena". 

Lab notable for Hgb 11->9 (last known values from ___, also 11
at that time). lactate 3->2.8. no leukocytosis. ethanol level
360s

He was ___ 1L fluid, diazepam for CIWA, thiamine, and IV PPI. 

Upon arrival to the floor, the patient endorses the story as
above. States that he feels a bit diaphoretic and shaky (which 
is
improved since receiving diazepam). Denies abdominal pain and
nausea. HAs orthostatic lightheadedness. 
 
Past Medical History:
Alcohol use
UGIB
Duodenal ulcer on EGD in ___
Treated H pylori 
 
Social History:
___
Family History:
Notes that many members of his family drink heavily.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS:  24 HR Data (last updated ___ @ 1203)
    Temp: 98.9 (Tm 98.9), BP: 127/79 (___), HR: 93
(___), RR: 20, O2 sat: 97%, O2 delivery: RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MM slightly dry, oropharynx clear,
EOMI, PERRL, neck supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
Abdomen: Soft, ___, bowel sounds present,
no rebound or guarding, no stigmata of cirrhosis 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Alert, conversant, no gross focal deficits. 

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 729)
    Temp: 97.8 (Tm 98.8), BP: 107/65 (___), HR: 61
(___), RR: 18, O2 sat: 96% (___), O2 delivery: Ra   
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MM slightly dry, oropharynx clear,
EOMI, PERRL, neck supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
Abdomen: Soft, ___, bowel sounds present,
no rebound or guarding, no stigmata of cirrhosis 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Alert, conversant, no gross focal deficits. 

 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 04:53PM BLOOD ___ 
___ Plt ___
___ 04:53PM BLOOD ___ 
___
___ 09:13AM BLOOD ___
___ 08:29PM BLOOD ___

DISCHARGE LAB RESULTS
=====================
___ 06:05AM BLOOD ___ 
___ Plt ___
___ 06:05AM BLOOD ___ 
___
 
Brief Hospital Course:
This is a ___ year old male with a history peptic ulcer disease, 
concern for alcohol abuse, admitted this morning with 
hematemesis and melena in setting of alcohol binge, found to 
have duodenal bulb ulcer, subsequently started on ___ PPI 
and stable 

# Acute blood loss anemia 
# Duodenal ulcer with acute hemorrhage
Patient presented with hematemesis and melena in setting of 
recent alcohol binge, found to be symptomatically orthostatic.  
Placed 2 PIVs, obtained T&S, and started IV pantoprazole BID. 
Received 2L IV NS. Hemoglobin 11.2 on admission, nadir at 7.6.  
Patient was seen by GI consult service and underwent EGD on 
___, which showed a 9 mm duodenal bulb ulcer with some 
erosions, but without high risk features necessitating acute 
intervention.  Patient monitored for > 24 hours ___. IV PPI 
was converted to PO.  He remained hemodynamically stable without 
signs of bleeding.  Hgb 8.2 at discharge.  Discharged on 40mg 
pantoprazole BID, with a planned 8 week course.  Per GI, 
recommended for repeat outpatient EGD to ensure resolution of 
ulcer.  Also recommended for outpatient colonoscopy. 

# Alcohol use disorder 
# Acute Alcohol intoxication
Patient with history of intermittent alcohol use admitted with 
alcohol level 368.  Patient reported that he had been drinking 
500 mL of vodka daily for the prior 3 days since he learned of 
his friend's recent death.  Maintained on CIWA without signs of 
withdrawal following his admission.  Received ___ thiamine 
supplementation and folate.  Counseled patient that alcohol 
could cause rebleeding and even death--he verbalized 
understanding.  Team offered to help with outpatient support, 
but he declined

#CODE: Full (presumed)
#CONTACT: ___.

TRANSITIONAL ISSUES
===================
- ___ unclear if curcumin can increase bleeding risk, team 
recommended he hold this supplement (he had been taking x 1 
month prior to admission) until he can discuss further with his 
PCP 

- ___ report of intermittent bright red blood streaking his 
stool for several months, patient recommended for outpatient 
colonoscopy 

- As above, discharged on high dose pantaprazole x 8 weeks with 
recommendation for repeat EGD to ensure that ulcer has resolved. 


[] Patient interested in quitting and believes he can accomplish 
this without support--he declined support from inpatient team.  
Would consider continued counseling of patient as outpatient 

[] Consider repeat CBC in one week to ensure stability 
(Discharge Hgb 8.2)

> 30 minutes spent on discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Curcumin (turmeric (bulk)) 95 % PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
4. HELD- Curcumin (turmeric (bulk)) 95 % PO DAILY  This 
medication was held. Do not restart Curcumin until you are told 
to do so by your PCP. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute blood loss anemia secondary to 
# Duodenal ulcer with acute hemorrhage
# Alcohol use disorder 
# Acute Alcohol intoxication
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came into the hospital because you had blood in your vomit 
and stool. You had an endoscopy that showed an ulcer in your GI 
tract.  You received IV fluids and restarted on the medication 
to decrease acid in your stomach.

When you leave the hospital you should:
- Take all of your medications as prescribed.
- Attend all scheduled clinic appointments.
- Attempt to stop drinking alcohol, as this can lead to ulcers.
- See a gastroenterologist for colonoscopy.
- It is normal to have some bloody/dark bowel movements over the 
next few days, but if this continues to persist for longer than 
1 week, then it may be indicative of ongoing bleeding and you 
should seek medical care. 
- Curcumin can cause GI bleeding, so please do not continue to 
take it until you talk with your primary care doctor. 

It was a pleasure taking care of you, 
Your ___ Care Team

 
Followup Instructions:
___